US07557131B2
Preparation 75: 3-Hydroxy-2-methylbenzamide
Oxalyl chloride (4.19 ml, 48 mmol) was added to an ice-cold solution of 3-hydroxy-2-methylbenzoic acid (3.62 g, 24 mmol) in dichloromethane (30 mL). N,N-dimethylformamide (2 mL) was then added and the mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo and the residue was concentrated in vacuo three times from toluene. The residue was then suspended in tetrahydrofuran (10 mL), added to ice-cold 0.88 ammonia solution (10 mL) and stirred for 2.5 hours, allowing the temperature to rise to ambient. The reaction mixture was then extracted with ethyl acetate, dried over magnesium sulfate and concentrated in vacuo and the residue was concentrated in vacuo from acetone and triturated with diethyl ether to afford the title compound as a solid in 45% yield. LRMS APCI m/z 152 [M+H]+

reactant | Oxalyl chloride | 48 mmol, 4.19 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-hydroxy-2-methylbenzoic acid | 24 mmol, 3.62 g | OC=1C(=C(C(=O)O)C=CC1)C | C8H8O3
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-Hydroxy-2-methylbenzamide | 45% yield | OC=1C(=C(C(=O)N)C=CC1)C | C8H9NO2
